US08486967B2
b) 1-(3-Methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine dihydrochloride
To a solution of [1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester (256 mg, 0.86 mmol) in CH2Cl2 (8.6 mL) was added at room temperature under stirring a 2 M HCl solution in diethyl ether (4.3 mL) and was stirred at room temperature over night. The solvent was removed under reduced pressure. The crude product was treated twice with diethyl ether to yield the title compound as a yellow semi-solid (260 mg, 100%)

reactant | [1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 0.86 mmol, 256 mg | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC(=NS1)C)=O | C13H22N4O2S
reactant | HCl | 2 M | Cl | ClH
solvent | CH2Cl2 | 8.6 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 4.3 mL | C(C)OCC | C4H10O
product | 1-(3-Methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine dihydrochloride | 260 mg, 100% | Cl.Cl.CC1=NSC(=N1)N1CCC(CC1)N | InChI=1S/C8H14N4S.2ClH/c1-6-10-8(13-11-6)12-4-2-7(9)3-5-12;;/h7H,2-5,9H2,1H3;2*1H
